US07943642B2
Step D Synthesis of ethyl 5-chloro-4-nitropyrrole-2-carboxylate as an intermediate
A stirred solution of 5.0 grams (0.0272 mole) of ethyl 4-nitropyrrole-2-carboxylate (commercially available) and 5.5 grams (0.0408 mole) of sulfuryl chloride in 150 mL of acetic acid was warmed to 80° C., where it was maintained during a 3.5-hour period. After this time the reaction mixture was allowed to cool to ambient temperature as it stirred during an 18-hour period. The reaction mixture was concentrated under reduced pressure to a residue, and the residue was stirred with 250 mL of ethyl acetate and 100 mL of water. The organic layer was separated and washed with 150 mL of a solution of 75 mL of water and 75 mL of an aqueous solution saturated with sodium bicarbonate. The organic layer was dried with sodium sulfate, filtered, and the filtrate was concentrated under reduced pressure to a residue. The residue was purified with column chromatography on silica gel. Elution was accomplished using mixtures of 15% to 20% diethyl ether in hexane as eluants. The appropriate fractions were combined and concentrated under reduced pressure, yielding 2.1 grams of the subject compound. The NMR spectrum was consistent with the proposed structure.

reactant | ethyl 4-nitropyrrole-2-carboxylate | 0.0272 mole, 5.0 grams | [N+](=O)([O-])C=1C=C(NC1)C(=O)OCC | C7H8N2O4
reactant | sulfuryl chloride | 0.0408 mole, 5.5 grams | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
product | ethyl 5-chloro-4-nitropyrrole-2-carboxylate | 2.1 grams | ClC1=C(C=C(N1)C(=O)OCC)[N+](=O)[O-] | C7H7ClN2O4
